US08084485B2
To a solution of (2S,4S)-ethyl 4-(benzyloxymethyl)-2-(tert-butoxycarbonylamino)-5-methylhexanoate (16 g, 42.2 mmol) in EtOH (200 mL) at rt was added NaBH4 (12.8 g, 0.338 mol) in portions. The mixture was stirred for 16 h. The solvent was evaporated and the residue was partitioned between H2O (300 mL) and EtOAc (3×200 mL). The combined organic extracts were washed with brine, dried over MgSO4 and evaporated to give tert-butyl (2S,4S)-4-(benzyloxymethyl)-1-hydroxy-5-methylhexan-2-ylcarbamate (14.4 g, 97%). 1H NMR (400 MHz, CDCl3): δ7.35-7.29 (m, 5H), 4.95 (brs, 1H), 4.50 (s, 2H), 3.62 (brs, 3H), 3.50 (m, 1H), 3.35 (m, 1H), 1.75 (m, 1H), 1.54-1.45 (m, 3H), 1.43 (s, 9H), 0.88 (m, 6H); MS: 352 (M++1)

reactant | (2S,4S)-ethyl 4-(benzyloxymethyl)-2-(tert-butoxycarbonylamino)-5-methylhexanoate | 42.2 mmol, 16 g | C(C1=CC=CC=C1)OC[C@@H](C[C@@H](C(=O)OCC)NC(=O)OC(C)(C)C)C(C)C | C22H35NO5
reactant | NaBH4 | 0.338 mol, 12.8 g | [BH4-].[Na+]
solvent | EtOH | 200 mL | CCO | C2H6O
product | tert-butyl (2S,4S)-4-(benzyloxymethyl)-1-hydroxy-5-methylhexan-2-ylcarbamate | 14.4 g, 97% | C(C1=CC=CC=C1)OC[C@@H](C[C@@H](CO)NC(OC(C)(C)C)=O)C(C)C | C20H33NO4
